US07141564B2
(a) Benzothiazol-5-ylcarboxylic acid
4-Chloro-3-nitrobenzoic acid (22 g, 0.11 mol) was suspended in water, sodium hydroxide (4.33 g, 0.11 mol) and sodium sulfide hydrate (32 g) were added, and the mixture heated at reflux for 24 hours. After acidification with 5M hydrochloric acid the mixture was extracted with ethyl acetate. The extracts were dried over magnesium sulfate and evaporated under reduced pressure. The product from this reaction (1 g, 5.9 mmol) was dissolved in formic acid and heated at reflux in the presence of zinc (0.1 g) for 6 hours. The mixture was allowed to cool and was concentrated under reduced pressure. The residue was diluted with water and neutralised with saturated aqueous sodium hydrogen carbonate. Extraction with tetrahydrofuran and ethyl acetate (1:1) gave a pale yellow solid (0.48 g) that was purified on silica gel using a methanol dichloromethane gradient.

reactant | 4-Chloro-3-nitrobenzoic acid | 0.11 mol, 22 g | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | sodium hydroxide | 0.11 mol, 4.33 g | [OH-].[Na+]
reactant | sodium sulfide hydrate | 32 g | O.[S-2].[Na+].[Na+]
reactant | formic acid | C(=O)O | CH2O2
solvent | water | O | H2O
catalyst | zinc | 0.1 g | [Zn] | Zn
product | Benzothiazol-5-ylcarboxylic acid | 0.48 g | S1C=NC2=C1C=CC(=C2)C(=O)O | C8H5NO2S
